US07056943B2
Ethyl 2-{1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetate
To a solution of 1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indole (2.80 g, 7.62 mmol) in dry THF (40 mL) under nitrogen at 0° C. was added oxalyl chloride (2.0 mL, 23 mmol). The reaction mixture was stirred for one hour. It was cooled in an ice bath and ethanol (4.5 mL) was added. The reaction mixture was stirred for 25 minutes at room temperature then poured into excess aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated to dryness. The residue was purified by flash chromatography using 5–10% ethyl acetate in hexane as an eluant. Drying for 35 minutes at 60° C. yielded the title compound as a yellow gum (3.05 g, 86%): 1HNMR (300 MHz, DMSO-d6): δ8.75 (s, 1H), 8.45 (s, 1H), 7.8 (d, 2H, J=9.2 Hz), 7.75 (d, 1H, J=9.2 Hz), 7.6 (d, 1H, J=9.2 Hz), 7.45 (d, 2H, J=9.2 Hz), 7.3–7.4 (m, 5H), 5.85 (s, 2H), 4.35 (q, 2H, J=7.5 Hz), and 1.35 ppm (t, 3H, J=7.5 Hz).

reactant | 1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indole | 7.62 mmol, 2.80 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C1=CC=C(C=C1)OC(F)(F)F | C22H16F3NO
reactant | oxalyl chloride | 23 mmol, 2.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 4.5 mL | C(C)O | C2H6O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Ethyl 2-{1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetate | 3.05 g, 86% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OC(F)(F)F)C(C(=O)OCC)=O | C26H20F3NO4
